US05834494
5-(3-Thienyl) indole (D40)
The title compound was prepared as in (D29) from 5-bromoindole and thiophene-3-boronic acid to give (D40) (1.1 g, 100%).

reactant | 5-bromoindole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 5-(3-Thienyl) indole | S1C=C(C=C1)C=1C=C2C=CNC2=CC1 | C12H9NS
